US08357679B2
C: (4-Amino-3-chlorophenyl)(4-(4-(1,1,1,3,3,3-hexafluoro-2-hydroxypropan-2-yl)benzyl)piperazin-1-yl)methanone
A mixture of (4-amino-3-chlorophenyl)(piperazin-1-yl)methanone (6.67 mmol, 1.6 g), 2-(4-(bromomethyl)phenyl)-1,1,1,3,3,3-hexafluoropropan-2-ol (6.67 mmol, 2.250 g), sodium hydrogencarbonate (20.02 mmol, 1.682 g) and sodium iodide (0.334 mmol, 0.050 g) in acetonitrile (50 mL) was stirred for 24 hours. The reaction was concentrated under reduced pressure and dichloromethane was added. The mixture was filtered and the filtrate was chromatographed on silica eluting with dichloromethane to dichloromethane/ethyl acetate to give the title compound (1.66 g).

reactant | (4-amino-3-chlorophenyl)(piperazin-1-yl)methanone | 6.67 mmol, 1.6 g | NC1=C(C=C(C=C1)C(=O)N1CCNCC1)Cl | C11H14ClN3O
reactant | 2-(4-(bromomethyl)phenyl)-1,1,1,3,3,3-hexafluoropropan-2-ol | 6.67 mmol, 2.250 g | BrCC1=CC=C(C=C1)C(C(F)(F)F)(C(F)(F)F)O | C10H7BrF6O
reactant | sodium hydrogencarbonate | 20.02 mmol, 1.682 g | C(O)([O-])=O.[Na+]
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
catalyst | sodium iodide | 0.334 mmol, 0.050 g | [I-].[Na+]
product | (4-Amino-3-chlorophenyl)(4-(4-(1,1,1,3,3,3-hexafluoro-2-hydroxypropan-2-yl)benzyl)piperazin-1-yl)methanone | 1.66 g | NC1=C(C=C(C=C1)C(=O)N1CCN(CC1)CC1=CC=C(C=C1)C(C(F)(F)F)(C(F)(F)F)O)Cl | C21H20ClF6N3O2
